US06914156B2
In the invention, a zone in which the reaction product is yielded, e.g., a zone wherein a solid catalyst is present in a liquid phase comprising butadiene and acetic acid, is referred to as a reaction zone. Namely, the reaction zone as a whole is occupied by a liquid phase. An oxygen-containing gas is introduced into the liquid phase of the reaction zone so as to form fine bubbles, whereby diacetoxybutene is yielded.

reactant | butadiene | C=CC=C | C4H6
reactant | oxygen | O=O | O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | diacetoxybutene | C(C)(=O)OC(=CCC)OC(C)=O | C8H12O4
